US07109219B2
N1-Methyl-5-amino-1H-1-indolecarboxamide
Methanol (6 ml), water (2 ml), iron (0.32 g) and ammonium chloride (0.64 g) were added to N1-methyl-5-nitro-1H-1-indolecarboxamide (0.32 g, 1.46 mmol) synthesized in Production example 218-1; and the reaction mixture was heated to reflux for 2 hours. The reaction mixture was partitioned between ethyl acetate and water; the organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The residue was filtrated with celite, and concentrated under reduced pressure to yield the title compound (210 mg).

reactant | Methanol | 6 ml | CO | CH4O
reactant | ammonium chloride | 0.64 g | [Cl-].[NH4+]
reactant | N1-methyl-5-nitro-1H-1-indolecarboxamide | 1.46 mmol, 0.32 g | CNC(=O)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C10H9N3O3
catalyst | iron | 0.32 g | [Fe] | Fe
solvent | water | 2 ml | O | H2O
product | N1-Methyl-5-amino-1H-1-indolecarboxamide | 210 mg | CNC(=O)N1C=CC2=CC(=CC=C12)N | C10H11N3O
